US07365231B2
1,4-Bis(4-amino-3-hydroxyphenoxy)benzene was synthesized in a manner analogous to Example 2 from 1,4-bis(3-hydroxy-4-nitrophenoxy)benzene. Yield: 83%; mp>220° C. (decompose); IR (KBr): 3360, 3288, 3040, 1603, 1514 cm−1; MS (EI) m/z 324 (M+, 100); Elemental Anal. Calcd. for C18H16N2O4: C, 66.67; H, 4.94; N, 8.64. Found: C, 66.52; H, 5.01; N, 8.56.

reactant | 1,4-bis(3-hydroxy-4-nitrophenoxy)benzene | OC=1C=C(OC2=CC=C(C=C2)OC2=CC(=C(C=C2)[N+](=O)[O-])O)C=CC1[N+](=O)[O-] | C18H12N2O8
reactant | KBr | [K+].[Br-]
product | 1,4-Bis(4-amino-3-hydroxyphenoxy)benzene | Yield: 83% | NC1=C(C=C(OC2=CC=C(C=C2)OC2=CC(=C(C=C2)N)O)C=C1)O | C18H16N2O4
